US09328134B2
To a suspension of Hg(OAc)2 (12.4 g, 38.8 mmol, 1.0 equiv) in dry THF (174 mL), under nitrogen, was added a solution of (2R,3R,4R,5S)-1,3,4-tris(benzyloxy)hept-6-ene-2,5-diol (17.4 g, 38.8 mmol, 1.0 equiv) in dry THF (87 mL). The reaction mixture was stirred at room temperature for 16 hours and then a solution of KCl (4.3 g, 58.2 mmol, 1.5 equiv) in water (20 mL) was added. After 30 minutes, the reaction mixture was diluted with EtOAc (150 mL) and then washed with water (2×100 mL). The organic phase was then dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give an oil. This oil was purified by silica gel chromatography, eluting with 20% EtOAc in hexane, to give (((2S,3R,4R,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-hydroxytetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride as a pale yellow oil (22.6 g, 85%). 1H NMR (400 MHz, CDCl3) δ 7.37-7.29 (m, 11H), 7.27-7.24 (m, 2H), 7.23-7.19 (m, 2H), 4.62-4.48 (m, 6H), 4.37 (dd, J=7.1, 3.7 Hz, 1H), 4.15 (dt, J=6.3, 4.1 Hz, 1H), 3.82 (dd, J=10.1, 6.7 Hz, 1H), 3.72 (q, J=2.8, 1.9 Hz, 1H), 3.65-3.59 (m, 2H), 3.53-3.47 (m, 2H), 2.06-2.00 (m, 1H), 1.77 (dd, J=12.1, 3.8 Hz, 1H). ESI (M+1-Cl) 647.1; calc for C28H31ClHgO5 684.2.

reactant | Hg(OAc)2 | 38.8 mmol, 12.4 g, 1.0 equiv | [Hg](OC(=O)C)OC(=O)C
reactant | (2R,3R,4R,5S)-1,3,4-tris(benzyloxy)hept-6-ene-2,5-diol | 38.8 mmol, 17.4 g, 1.0 equiv | C(C1=CC=CC=C1)OC[C@H]([C@H]([C@@H]([C@H](C=C)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O | C28H32O5
reactant | KCl | 58.2 mmol, 4.3 g, 1.5 equiv | [Cl-].[K+]
solvent | THF | 174 mL | C1CCOC1 | C4H8O
solvent | THF | 87 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (((2S,3R,4R,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-hydroxytetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride | 22.6 g, 85% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)C[Hg]Cl)O | InChI=1S/C28H31O5.ClH.Hg/c1-21-26(29)28(32-19-24-15-9-4-10-16-24)27(31-18-23-13-7-3-8-14-23)25(33-21)20-30-17-22-11-5-2-6-12-22;;/h2-16,21,25-29H,1,17-20H2;1H;/q;;+1/p-1/t21-,25-,26+,27-,28-;;/m1../s1
